US05304556
b) 2-acetoxymethyl-5-methoxy-N-(3-pyridylmethyl) benzamide
A solution of 710 mg of 2-hydroxymethyl-5-methoxy-N-(3-pyridylmethyl) benzamide and 317 mg of triethylamine in 10 ml of methylene chloride was chilled at 0° C., mixed with 320 mg of acetic anhydride and stirred at room temperature for 15 hours. The reaction mixture was washed with water and saturated brine in order. The organic layer was dried over anhydrous magnesium sulfate and concentrated in vacuo to give 820 mg of the titled compound.

reactant | 2-hydroxymethyl-5-methoxy-N-(3-pyridylmethyl) benzamide | 710 mg | OCC1=C(C(=O)NCC=2C=NC=CC2)C=C(C=C1)OC | C15H16N2O3
reactant | triethylamine | 317 mg | C(C)N(CC)CC | C6H15N
reactant | acetic anhydride | 320 mg | C(C)(=O)OC(C)=O | C4H6O3
solvent | methylene chloride | 10 ml | C(Cl)Cl | CH2Cl2
product | 2-acetoxymethyl-5-methoxy-N-(3-pyridylmethyl) benzamide | 820 mg | C(C)(=O)OCC1=C(C(=O)NCC=2C=NC=CC2)C=C(C=C1)OC | C17H18N2O4
